US05547606
(Preparation of trans-4-(2-(trans-4-(3,4-difluorophenyl) cyclohexyl) ethyl)-1-(3-methylbutyl)-1-silacyclohexane)
The preparation was conducted in the same manner as in Example 6, except that 7.5 g (21 mmol) of 1-chloro-4-(2-(trans-4-(3,4-difluorophenyl)cyclohexyl)ethyl)-1-silacyclohexane and 3-methylbutylzinc chloride were used instead of 7.0 g (21 mmol) of 1-chloro-4-(2-(trans-4-(p-fluorophenyl)cyclohexyl) ethyl)-1-silacyclohexane and n-pentylzinc chloride.

reactant | 1-chloro-4-(2-(trans-4-(3,4-difluorophenyl)cyclohexyl)ethyl)-1-silacyclohexane | 21 mmol, 7.5 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)F)F | C19H27ClF2Si
reactant | 3-methylbutylzinc chloride | [Cl-].CC(CC[Zn+])C
reactant | 1-chloro-4-(2-(trans-4-(p-fluorophenyl)cyclohexyl) ethyl)-1-silacyclohexane | 21 mmol, 7.0 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)F | C19H28ClFSi
reactant | n-pentylzinc chloride | [Cl-].C(CCCC)[Zn+]
product | trans-4-(2-(trans-4-(3,4-difluorophenyl) cyclohexyl) ethyl)-1-(3-methylbutyl)-1-silacyclohexane | FC=1C=C(C=CC1F)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[Si@H](CC1)CCC(C)C | C24H38F2Si
